US06355635B1
1-(4-{5-[4-(3,4-Dichloro-phenyl)-1H-imidazol-2-yl]-pyridin-2-yl}-piperazin-1-yl)-2-methyl-propan-2-ol:
(Reference: Ind. Acad. Sci. 1939, 49, 101-4.) A solution of 1-{5-[4-(3,4-dichloro-phenyl)-1H-imidazol-2-yl]-pyridin-2-yl}-piperazine (155 mg, 0.41 mmol), sodium carbonate (66 mg, 0.62 mmol, 1.5 equiv) and 1-chloro-2-methyl-propan-2-ol (51 μl, 53 mg, 0.50 mmol, 1.2 equiv) in 50% aqueous ethanol (20 ml) under nitrogen atmosphere was heated at reflux overnight. The reaction mixture was then diluted with brine and extracted with ethyl acetate (3×25 ml). The combined organic phases were dried over anhydrous magnesium sulfate, filtered, and -concentrated in vacuo. Purification of the residue by flash column chromatography (50% THF/0.5% ammonium hydroxide/hexanes) provided the desired product (100 mg, 54%).

reactant | 1-{5-[4-(3,4-dichloro-phenyl)-1H-imidazol-2-yl]-pyridin-2-yl}-piperazine | 0.41 mmol, 155 mg | ClC=1C=C(C=CC1Cl)C=1N=C(NC1)C=1C=CC(=NC1)N1CCNCC1 | C18H17Cl2N5
reactant | sodium carbonate | 0.62 mmol, 66 mg, 1.5 equiv | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-chloro-2-methyl-propan-2-ol | 0.50 mmol, 51 μl, 53 mg, 1.2 equiv | ClCC(C)(O)C | C4H9ClO
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | brine | [Cl-].[Na+].O
product | 1-(4-{5-[4-(3,4-Dichloro-phenyl)-1H-imidazol-2-yl]-pyridin-2-yl}-piperazin-1-yl)-2-methyl-propan-2-ol | 100 mg, 54% | ClC=1C=C(C=CC1Cl)C=1N=C(NC1)C=1C=CC(=NC1)N1CCN(CC1)CC(C)(O)C | C22H25Cl2N5O
